US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-carboxy-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(4-methoxycarbonyl-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine (0.68 g, 0.92 mmol) and lithium hydroxide hydrate (0.12 g, 2.75 mmol) in 4/1 tetrahydrofuran/water (45 mL). After 72 hours, dilute the reaction mixture with water and evaporate in vacuo to remove most of the tetrahydrofuran. Acidify to pH 2 using 1 M hydrochloric acid solution to obtain a solid. Collect the solid by filtration. Suspend the solid in diethyl ether (150 mL) and stir. Collect the solid by filtration and dry to give the title compound: mp; 173.0-190.0° C.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(4-methoxycarbonyl-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | 0.92 mmol, 0.68 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)C(=O)OC)C=CC=C3)C=C(C1OC)OC | C44H48N4O7
reactant | lithium hydroxide hydrate | 2.75 mmol, 0.12 g | O.[OH-].[Li+]
reactant | tetrahydrofuran water | 45 mL | O1CCCC1.O
solvent | water | O | H2O
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-carboxy-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)C(=O)O)C=CC=C3)C=C(C1OC)OC | C43H46N4O7
